US06200999B1
2) 4-(Bromomethyl)-5-(4,5-dihydro-4,4-dimethyl-1,3-oxazol-2-yl)-3-ethoxyisoxazole
5-(4,5-Dihydro-4,4-dimethyl-1,3-oxazol-2-yl)-3-ethoxy-4-methylisoxazole (2.0 g, 8.9 mmol), NBS (1.75 g, 9.8 mmol) and tetrachloromethane (150 mL) was boiled under reflux for 5 h. The mixture was cooled, filtered and concentrated in vacuo. Flash chromatography (silica gel, eluent: toluene/EtOAc/triethylamine=100:10:1) gave the title compound as a yellow oil (2.0 g, 74%).

reactant | 5-(4,5-Dihydro-4,4-dimethyl-1,3-oxazol-2-yl)-3-ethoxy-4-methylisoxazole | 8.9 mmol, 2.0 g | CC1(N=C(OC1)C1=C(C(=NO1)OCC)C)C | C11H16N2O3
reactant | NBS | 9.8 mmol, 1.75 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | tetrachloromethane | 150 mL | ClC(Cl)(Cl)Cl | CCl4
product | 4-(Bromomethyl)-5-(4,5-dihydro-4,4-dimethyl-1,3-oxazol-2-yl)-3-ethoxyisoxazole | 2.0 g, 74% | BrCC=1C(=NOC1C=1OCC(N1)(C)C)OCC | C11H15BrN2O3
